US07642361B2
4-Cyano-5-iodo-3-(2′-methylsulfanyl-biphenyl-4-yl)-thiophene-2-carboxylic acid ethyl ester
Using a method substantially in accordance with the method of 3-(4-tert-butyl-phenyl-4-cyano-5-iodo-thiophene-2-carboxylic acid methyl ester starting with the compound 5-amino-4-cyano-3-(2′methylsulfanyl-biphenyl-4-yl)-thiophene-2-carboxylic acid ethyl ester gives the title compound: 1H NMR (400 MHz, CDCl3) δ 7.53-7.20 (m, 8H), 4.23 (q, 2H, J=7.2 Hz), 2.38 (s, 3H), 1.22 (t, 3H, J=7.0 Hz).

reactant | 4-tert-butyl-phenyl-4-cyano-5-iodo-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C(C)(C)C)C#N)I | C17H16INO2S
reactant | 5-amino-4-cyano-3-(2′methylsulfanyl-biphenyl-4-yl)-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)SC)C#N)N | C21H18N2O2S2
product | 4-Cyano-5-iodo-3-(2′-methylsulfanyl-biphenyl-4-yl)-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)SC)C#N)I | C21H16INO2S2
